US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]furan-2-carboxamide
Following a procedure similar to that described in Example 13, but using 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine and 2-furancarboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in an 82% yield.

reactant | 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
reactant | 2-furancarboxylic acid | O1C(=CC=C1)C(=O)O | C5H4O3
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]furan-2-carboxamide | 82% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(=O)C=1OC=CC1 | C20H25N3O3
